US07323455B2
To a solution of 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one (5 g, 14.6 mmol) in anhydrous THF (100 mL) was added lithium aluminum hydride (0.2 g, 5.2 mmol) at rt under nitrogen. After addition, the mixture was stirred for 3 hrs and treated with aqueous ammonium chloride solution (200 mL). Ethyl acetate (300 mL) was added. Organic layer was separated, dried (MgSO4), and concentrated to afford 7-bromo-5-methyl-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepine as an oil (4 g, 85%). A white solid as a HCl salt: 1H NMR (DMSO-d6): δ 7.52 (dd, J=5.0, 0.8 Hz, 1H), 7.31 (dd, J=8.5, 2.1 Hz, 1H), 7.12 (d, J=2.1 Hz, 1H), 6.95-7.04 (m, 2H), 6.78 (dd, J=3.5, 0.9 Hz, 1H), 3.61-3.85 (m, 4H), 3.12 (m, 2H), 2.93 (s, 3H); MS (ESI) m/z 324/326 ({M+H]+); Anal. calcd for C14H14BrNOS HCl: C, 46.62; H, 4.19; N, 3.88. Found: C, 46.70; H, 3.99; N, 3.83.

reactant | 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | 14.6 mmol, 5 g | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1 | C14H12BrNO2S
reactant | lithium aluminum hydride | 5.2 mmol, 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-bromo-5-methyl-5-thien-2-yl-1,2,3,5-tetrahydro-4,1-benzoxazepine | 4 g, 85% | BrC=1C=CC2=C(C(OCCN2)(C=2SC=CC2)C)C1 | C14H14BrNOS
